US06294503B1
Preparation of 3-[5-amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione (Compound No.1-6)
3-[5-Amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (4.0 g) was dissolved in DMF (200 ml) containing potassium carbonate (5 g) and iodomethane (10 ml). After stirring for 2 hr, water (150 ml) and ethyl acetate (200 ml) were added. The organic phase was washed with water (50 ml×3) and brine (50 ml), dried over sodium sulfate. After filtration and evaporation, the residue was recrystallized from methylene chloride and hexane to afford the title compound (3.3 g).

reactant | 3-[5-Amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 4.0 g | NC1=C(C(=CC2=C1NC(CO2)=O)F)N2C(NC(=CC2=O)C(F)(F)F)=O | C13H8F4N4O4
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 10 ml | IC | CH3I
reactant | water | 150 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-[5-amino-7-fluoro-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 3.3 g | NC1=C(C(=CC2=C1NC(CO2)=O)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H10F4N4O4
